* QMX Filters

* QMX LPF
.subckt qmxlpf nIN nOUT l1=0 l2=0 c1=0 c2=0 c3=0 c4=0
C1 nIN 0 {c1}
L1 N001 nIN {l1}
C2 N001 0 {c2}
C3 nOUT 0 {c3}
C4 nOUT N001 {c4}
L2 nOUT N001 {l2}
.ends

* QMX BPF
.subckt qmxbpf nIN nOUT c1=0 l1=0
C1 nIN x {c1}
L1 x nOUT {l1}
.ends

***** 6m *****

.subckt lpf6m nIN nOUT
.param c1 = 68p
.param c2 = 120p
.param c3 = 68p
.param c4 = 10p
.param l1 = 188n
.param l2 = 160n
Xlpf nIN nOUT qmxlpf l1={l1} l2={l2} c1={c1} c2={c2} c3={c3} c4={c4}
.ends

.subckt bpf6m nIN nOUT
.param c11 = 15p
.param l11 = 412n
Xbpf nIN nOUT qmxbpf c1={c11} l1={l11}
.ends

.subckt lpfbpf6m nIN nOUT
Xlpf x nIN lpf6m 
Xbpf nOUT x bpf6m
.ends

***** 10m *****

.subckt lpf10m nIN nOUT
.param c1 = 100p
.param c2 = 180p
.param c3 = 82p
.param c4 = 15p
.param l1 = 314n
.param l2 = 270n
Xlpf nIN nOUT qmxlpf l1={l1} l2={l2} c1={c1} c2={c2} c3={c3} c4={c4}
.ends

.subckt bpf10m nIN nOUT
.param l11 = 313.6nH
.param c11 = 30p
Xbpf nIN nOUT qmxbpf c1={c11} l1={l11}
.ends

.subckt lpfbpf10m nIN nOUT
Xlpf x nIN lpf10m 
Xbpf nOUT x bpf10m
.ends

***** 15m *****

.subckt lpf15m nIN nOUT
.param c1 = 220p
.param c2 = 560p
.param c3 = 270p
.param c4 = 33p
.param l1 = 286n
.param l2 = 230n
Xlpf nIN nOUT qmxlpf l1={l1} l2={l2} c1={c1} c2={c2} c3={c3} c4={c4}
.ends

.subckt bpf15m nIN nOUT
.param l11 = 960.4n
.param c11 = 33p
Xbpf nIN nOUT qmxbpf c1={c11} l1={l11}
.ends

.subckt lpfbpf15m nIN nOUT
Xlpf x nIN lpf15m 
Xbpf nOUT x bpf15m
.ends

***** 20m *****

.subckt lpf20m nIN nOUT
.param c1 = 120p
.param c2 = 270p
.param c3 = 120p
.param c4 = 15p
.param l1 = 706n
.param l2 = 640n
Xlpf nIN nOUT qmxlpf l1={l1} l2={l2} c1={c1} c2={c2} c3={c3} c4={c4}
.ends

.subckt bpf20m nIN nOUT
.param l11 = 1416.1n
.param c11 = 56p
Xbpf nIN nOUT qmxbpf c1={c11} l1={l11}
.ends

.subckt lpfbpf20m nIN nOUT
Xlpf x nIN lpf20m 
Xbpf nOUT x bpf20m
.ends


